US05646146
9-Ethoxy-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione
9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione (0.50 g, 2.13 mmol) was refluxed in 25 ml dry ethanol for 7 hours. The mixture was evaporated to few ml and the precipitate was filtered off, washed with ethanol and dried to give 0.229 g of the crude compound, which was recrystallized from acetic acid-water to yield 0.131 g (25%) of the title compound. M.p.>300° C. 1H-NMR (DMSO-d6, δ): 1.1 (t, 3H), 3.25 (dq, 1H), 3.43 (dq, 1H), 5.22 (s, 1H), 7.17 (t, 1H), 7.33 (t, 1H), 7.42 (d, 1H), 7.51 (d, 1H), 12.1 (s, 1H), 12,31 (s, 1H).

reactant | 9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione | 2.13 mmol, 0.50 g | ClC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H7ClN2O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 9-Ethoxy-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione | 0.131 g, 25% | C(C)OC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C13H12N2O3
